US06455650B1
A 50 weight percent solution of butylnorbornene (5.0 g, 0.033 mol) was prepared in toluene. Lithium tetrakis(pentafluorophenyl)borate·2.5 Et2O (0.0012 g, 0.0014 mmol) was combined with (allyl)platinum(tricyclohexylphosphine)triflate (100 μl of a 2.8 mmol solution in toluene) in toluene and added to the monomer mixture. The mixture was heated to 80° C. for 18 hours. The mixture was poured into acetone to precipitate the polymer. After filtering and drying, 0.15 g of polymer was isolated (3% yield).

reactant | Et2O | 0.0014 mmol, 0.0012 g | CCOCC | C4H10O
reactant | acetone | CC(=O)C | C3H6O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | butylnorbornene | 0.033 mol, 5.0 g, 3% yield | C(CCC)C12C=CC(CC1)C2 | C11H18
